Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Keflex
 
Attending: ___
 
___ Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo G8P5 at 23w6d with type I DM and PPROM since ___ weeks.  
Presented to OB triage with fever, chills, dry cough, head 
congestion and sense of unwell since that afternoon. She 
recorded her temperature at 16:00 which was 99.9 at which time 
she took 1000mg of tylenol.

She has been managed expectantly for PPROM since ___ weeks. She 
has been at home on bedrest. She has a cerclage in place that 
could not be removed at the time. Since then, she has noted 
occasional small leakage of fluid. No contractions or abdominal 
pain. She has been monitoring her temperature intermittently at 
home. Eight days ago, she noted significant dysuria. According 
to physician notes, UA and Ucx returned positive and she was 
started on macrobid on ___. She notes frequency and persistent 
dysuria. No backpain. No diarrhea, constipation, rash, purulent 
vaginal discharge.

At the same time, she has had minimal appetite today. Her ___ 
have started to increase intermittently but with the exception 
of ___ measurements at 200, they have mostly been less than 150. 
No nausea or vomiting today.
 
Past Medical History:
PNC:
1. Dating: EDC ___ by ___ trimester US
2. Labs: AB+
3. US: nl FFS, no previa
4. Issues:
- Rh status: weakly antigen D positive -> receives Rhogam in
pregnancy
- cervical insufficiency: prior advanced cervical dilation with
term deliveries. Prophylactic ___ cerclage placed at 12
weeks.
- PPROM at 17 weeks: evaluated due to multiple gushes of clear
fluid. seen in triage and thought to ruptured. Counselled about
risks and elected to be managed expectantly. Cerclage could not
be removed at the time. She has been on bedrest since then.
- T1DM: diagnosed in ___ (class B), well managed on pump.
Has not seen Dr ___ ___.
 
ObHx: 
G1 - missed Ab ___ trimester
G2 - missed Ab ___ trimester
G3 - VD IOL advanced cervical dilation 36 weeks
G4 - VD IOL advanced cervical dilation 38 weeks
G5 - VD IOL for T1DM 38 weeks, cerclage placed 
G6 - stat LTCS for compound malpresentation, IOL at 38wks T1DM
G7 - VBAC spont labour 38 weeks

GynHx: denies STIs

Medhx: nil

Surghx: 
- D&C x 2
- LSC cholecystectomy
- LTCS

 
Social History:
Lives with husband and five children. Teaches ___ 
education. Denies any T/E/D.

 
Physical Exam:
VITALS: 100.3 -> 98.6, 125, 18, ___
FSG: 165 -> 3.5u sc bolused -> 127
GEN: Looks well but tired, sitting in bed
HEENT: no ___, no sinus tenderness
Lungs: CTAB
Heart: RRR, tachycardic
Abd: soft, NT, ND, gravid S=D
Back: no CVAT
___: no edema or tenderness
Skin: no rashes
.
Bimanual: deferred
Spec: done by ___ -> cervix appears closed and long, 
no
pooling, no blood seen, cerclage not adequately visualised. 
.
TAUS (by Dr ___: FHR 152 bpm, AFI 11.3, breech, active FM
.
TOCO: nil
EFM: 150/AGA/+accels/mod variability

 
Pertinent Results:
___ 06:00PM BLOOD WBC-7.5 RBC-3.74* Hgb-11.9* Hct-34.3* 
MCV-92 MCH-31.9 MCHC-34.8 RDW-12.7 Plt ___
___ 06:00PM BLOOD Neuts-89.7* Bands-0 Lymphs-5.6* Monos-3.7 
Eos-0.7 Baso-0.2
___ 06:00PM BLOOD Glucose-152* UreaN-8 Creat-0.4 Na-135 
K-3.9 Cl-102 HCO3-22 AnGap-15
___ 06:00PM BLOOD Calcium-9.4 Phos-3.0 Mg-1.9
.
___ 10:57PM BLOOD %HbA1c-6.0*
___ 06:00PM BLOOD TSH-0.74
.
___ 06:00PM URINE Blood-LG Nitrite-NEG Protein-100 
Glucose-100 Ketone-40 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 06:00PM URINE RBC-487* WBC-810* Bacteri-FEW Yeast-NONE 
Epi-5
.
___ 6:00 pm URINE CULTURE (Final ___: MIXED BACTERIAL 
FLORA ( >= 3 COLONY TYPES), CONSISTENT WITH SKIN AND/OR GENITAL 
CONTAMINATION. 
.
___ 7:13 pm URINE CULTURE (Final ___:    NO GROWTH.
.
___ 5:30 pm Influenza A/B by ___
   DIRECT INFLUENZA A ANTIGEN TEST (Final ___: 
      Negative for Influenza A viral antigen. 

   DIRECT INFLUENZA B ANTIGEN TEST (Final ___: 
      POSITIVE FOR INFLUENZA B VIRAL ANTIGEN. 
      REPORTED BY PHONE TO ___ ON ___ AT NOON. 

 
Brief Hospital Course:
___ yo G8P5 at 23.6 weeks (EDC ___ with Type I DM and PPROM 
since ___ weeks was admitted to the AP service due to low grade 
fevers up to 100.7, flu-like symptoms, and dysuria despite 
recent treatment for UTI.

Her ID work-up included WBC which was normal at 7.5, ___ CXR 
most c/w left atelectasis (early infiltrate also possible), and 
nasal aspirate positive for Influenza B.  She was initially 
started on Azithromycin, but this was DCd when the nasal 
aspirate came back positive for flu and pneumonia was ruled out. 
 

___ UA was suggestive of UTI, and ___ urine cx was mixed.  She 
was started on PO Augmentin due to possible UTI.  ___ urine cx 
had no growth, and blood cx had NTGT at the time of discharge.  
There was no uterine tenderness or ctx or other signs or 
symptoms of chorio.  Tylenol was DCd on ___ and she remained 
afebrile for 36 hours.  She was DCd home to complete a seven day 
course of Augmentin for possible persistent UTI.

As far as her Type I DM, the patient was seen by the ___ 
service and managed on her insulin pump.  Her ___ were somewhat 
elevated due to her infection but were not above 200, and there 
was no evidence of DKA.  The patient has not seen ___ as an 
outpt during this pregnancy, and will f/u as an outpt.

FWB was reassuring with normal AFI despite PPROM since ___ weeks. 
 ___ EFW 679g(64%), and ___ BPP ___, AFI 11, breech.  She did 
not receive BMZ.

Cerclage was left in place.
 
Medications on Admission:
PNV, Macrobid ___ PO BID
 
Discharge Medications:
1. Amoxicillin-Pot Clavulanate 500-125 mg Tablet Sig: One (1) 
Tablet PO Q8H (every 8 hours) for 4 days.
Disp:*12 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PPROM
Type I DM
Flu

 
Discharge Condition:
Stable

 
Discharge Instructions:
Bedrest.
Continue administering insulin via your pump and record 
fingersticks and fax them to ___ as directed.
Call if you have fevers, abdominal pain, contractions, leakage 
of fluid, bleeding, or decreased fetal movement.
 
Followup Instructions:
___